US07947692B2
To a magnetically stirred mixture of 1-(2-Chloro-4-methoxy-pyridin-3-yl)-3-[4-hydroxy-4-(3-trifluoromethylphenyl)-piperidine-1-carbonyl]-thiourea (100 mg, 0.20 mmol) in THF (10 mL) was added sodium hydride (10 mg, 0.25 mmole, 60% dispersion in mineral oil). The reaction is stirred at reflux overnight. TLC (80% ethyl acetate/hexane) indicated complete consumption of starting material. The reaction was poured into water and the aqueous layer was extracted with ethyl acetate. The resulting organic layers were washed with 2N HCl (2×) and saturated sodium chloride solution and then dried over magnesium sulfate. Purification by flash chromatography gave 4-Hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (7-methoxy-thiazolo[5,4-b]pyridine-2-yl)-amide (20 mg, 0.04 mmole, 22% yield) as a light yellow solid. (LRMS for C20H19F3N4O3S (M+H)+ at m/z=452.

reactant | 1-(2-Chloro-4-methoxy-pyridin-3-yl)-3-[4-hydroxy-4-(3-trifluoromethylphenyl)-piperidine-1-carbonyl]-thiourea | 0.20 mmol, 100 mg | ClC1=NC=CC(=C1NC(=S)NC(=O)N1CCC(CC1)(C1=CC(=CC=C1)C(F)(F)F)O)OC | C20H20ClF3N4O3S
reactant | sodium hydride | 0.25 mmole, 10 mg | [H-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (7-methoxy-thiazolo[5,4-b]pyridine-2-yl)-amide | 0.04 mmole, 20 mg, 22% yield | COC1=C2C(=NC=C1)SC(=N2)NC(=O)N2CCC(CC2)(C2=CC(=CC=C2)C(F)(F)F)O | C20H19F3N4O3S
